US05128355
Part E: Preparation of 3-[1(4-(2-Carboxybenzamido)-benzyl)-2-butyl-4-chloroimidazol-5-yl]-propen-1-ol, E isomer
To a solution of 95 mg of 3-[1-(4-aminobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol in 2 mL of CHCl3 was added 45 mg of phthalic anhydride and the mixture was stirred at room temperature for 1 hour. During this period of time the initially clear solution because turbid and produced solid. The reaction mixture was diluted with 2 mL of ether and the solid was collected by filtration and washed with ether. The desired product was obtained as a tan solid, 115 mg, m.p. 150°-151°; NMR (10% DMSO-d6CDCl3); δ 9.94 (s, 1h); 7.71 and 6.93 (d, 4H, J=8.3 Hz); 6.36 (m, 2H); 5.1 (s, 2H); 4.18 (d, 2H, J=3.9 Hz); 2.6 (t, 3H, J=7.4 Hz); 1.68 (m, 2H); 1.34 (m, 2H); 0.89 (t, 3H, J=7.4 Hz).

reactant | 3-[1-(4-aminobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol | 95 mg | NC1=CC=C(CN2C(=NC(=C2CC=CO)Cl)CCCC)C=C1 | C17H22ClN3O
reactant | phthalic anhydride | 45 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 2 mL | CCOCC | C4H10O
product | 3-[1(4-(2-Carboxybenzamido)-benzyl)-2-butyl-4-chloroimidazol-5-yl]-propen-1-ol | C(=O)(O)C1=C(C(=O)NC2=CC=C(CN3C(=NC(=C3CC=CO)Cl)CCCC)C=C2)C=CC=C1 | C25H26ClN3O4
